US07829580B2
To a solution of (E)-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol (4.52 g) in toluene (80 ml) were added N,N-dimethylformamide dineopentyl acetal (5.0 ml) and thioacetic acid (1.3 ml) at 0° C. After the mixture was stirred at room temperature, the reaction was quenched by addition of water. The product was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. Removal of the solvent under reduced pressure followed by purification of the residue by silica gel chromatography using ethyl acetate and hexane (25:75 to 70:30) gave 5-{(acetylsulfanyl)[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methyl}-1-(triphenylmethyl)-1,2,3,6-tetrahydropyridine (3.92 g, yield: 78%) as a pale yellow amorphous solid.

reactant | (E)-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 4.52 g | C(C)OC(=O)CN1C(=NC=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33N3O3
reactant | N,N-dimethylformamide dineopentyl acetal | 5.0 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | thioacetic acid | 1.3 ml | C(C)(=S)O | C2H4OS
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{(acetylsulfanyl)[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methyl}-1-(triphenylmethyl)-1,2,3,6-tetrahydropyridine | 3.92 g, yield: 78% | C(C)(=O)SC(C1=CCCN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1N(C=CN1)CC(=O)OCC | C34H35N3O3S
